### PR TITLE
Replacing-list-finset

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

**Comment by DafinaTrufas** [comment]
I managed to fix only part of the errors that occurred after changes. Could you please take a look and suggest how can I fix the rest of them?

File: theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v [hunk 1]
```diff
@@ -300,31 +306,33 @@ Lemma traces_exhibiting_limited_equivocation_are_valid
...
+  - apply Hlimited.
+  - apply Hsender_safety.
 Qed.
 
 (** Traces having the [strong_trace_witnessing_equivocation_prop]erty, which
 are valid for the free composition and whose final state is [not_heavy] have
 the [fixed_limited_equivocation_prop]erty.
 *)
-Lemma traces_exhibiting_limited_equivocation_are_valid_rev
+(*Lemma traces_exhibiting_limited_equivocation_are_valid_rev
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v:318]: This PR looks good overall, but what is the intuition for commenting out these lemmas? I can think of a couple of options:
- the property is longer useful after the switch to `FinSet` (in this case it should be removed)
- there was some problem in reproving the property for `FinSet`

File: theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v [hunk 2]
```diff
@@ -333,13 +341,13 @@ Proof.
...
       intro i. rewrite elem_of_remove_dups. itauto.
-Qed.
+Qed.*)
 
 (** Traces with the [strong_trace_witnessing_equivocation_prop]erty, which are
 valid for the composition using a [limited_equivocation_constraint]
 have the [fixed_limited_equivocation_prop]erty.
 *)
-Lemma limited_traces_exhibiting_limited_equivocation_are_valid_rev
+(*Lemma limited_traces_exhibiting_limited_equivocation_are_valid_rev
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v:350]: Same question as about the other commented-out lemma: what's the intuition behind the change?

**Review by palmskog — COMMENTED** [review]
I'm really interested in hearing opinions from @traiansf, but I have a few small questions in the meantime.

File: theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v (hunk 1 above)
Comment (DafinaTrufas) [reply theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v:318]: The reason is related to the second bullet above.

File: theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v (hunk 2 above)
Comment (DafinaTrufas) [reply theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v:350]: Yes, I didn't manage to reprove those lemmas using `FinSet` and I commented them out, in order to can go further in the file and fix other things.

Comment (palmskog) [reply theories/VLSM/Core/Equivocation/LimitedMessageEquivocation.v]: OK, this is completely fine, but then maybe you can make this a draft PR? When we figure out the commented-out lemmas (e.g., could be Traian or I that do this), we can mark the PR as ready to review again.

**Comment by traiansf** [comment]
@DafinaTrufas I've fixed the remaining problems. If there are no commented lemmas left, you can mark this as ready for review and be ready to get a lot of (good) advice from @wkolowski

File: theories/VLSM/Core/Equivocation.v [hunk 3]
```diff
@@ -80,34 +79,24 @@ Class BasicEquivocation
...
   intros.
-  apply (set_eq_nodup_sum_weight_eq
-          (equivocating_validators s1)
-          (equivocating_validators s2))
-  ; [| | done]
-  ; apply equivocating_validators_nodup.
+  apply set_eq_nodup_sum_weight_eq.
+  - apply NoDup_elements.
+  - apply NoDup_elements.
+  - apply set_eq_fin_set, H8.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:99]:
```suggestion
  - by apply NoDup_elements.
  - by apply NoDup_elements.
  - by apply set_eq_fin_set, H8.
```

**Review by palmskog — COMMENTED** [review]
This looks good generally, but @DafinaTrufas please do a small pass to ensure that the final tactic call in bullets in new proofs are preceded with `by`. See my example suggestion.

**Review by palmskog — APPROVED** [review]
This now looks good enough to merge to me.

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v [hunk 4]
```diff
@@ -69,53 +69,50 @@ Qed.
...
   simpl.
   split; intro Hin.
-  - by apply elem_of_list_filter in Hin as [Hin Hel].
-  - by apply elem_of_list_filter; auto using elem_of_enum.
+  - rewrite !elem_of_elements, elem_of_filter, !elem_of_list_to_set.
+    intros [Hins _]. apply Hins.
+  - rewrite !elem_of_elements, elem_of_filter, !elem_of_list_to_set.
+    intros Hins. split.
+    + apply Hins.
+    + auto using elem_of_enum.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v:99]:
```suggestion
  - by rewrite !elem_of_elements, elem_of_filter, !elem_of_list_to_set; intros [].
  - rewrite !elem_of_elements, elem_of_filter, !elem_of_list_to_set.
    by split; auto using elem_of_enum.
```

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v [hunk 5]
```diff
@@ -69,53 +69,50 @@ Qed.
...
-  - apply NoDup_filter.
-    apply state_validators_nodup.
-  - apply NoDup_filter.
-    apply state_validators_nodup.
-  - rewrite equivocating_indices_equivocating_validators, Heq.
-    apply set_eq_comm.
-    apply equivocating_indices_equivocating_validators.
+  - apply NoDup_elements.
+  - apply NoDup_elements.
+  - apply set_eq_fin_set. rewrite !equivocating_indices_equivocating_validators. apply Heq.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v:115]:
```suggestion
  - by apply NoDup_elements.
  - by apply NoDup_elements.
  - by apply set_eq_fin_set; rewrite !equivocating_indices_equivocating_validators.
```

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v [hunk 6]
```diff
@@ -60,9 +60,9 @@ Proof.
   specialize (equivocating_indices_equivocating_validators IM c)
     as Heq.
   apply sum_weights_subseteq.
-  - apply equivocating_validators_nodup.
+  - apply NoDup_elements.
   - apply NoDup_remove_dups.
-  - by intros i Hi; apply elem_of_remove_dups, Hfixed, Heq.
+  - intros i Hi; apply elem_of_remove_dups; apply elem_of_elements in Hi; rewrite Heq in Hi. apply elem_of_list_to_set in Hi; apply Hfixed, Hi.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v:65]: This line is way too long.

```suggestion
  - intros i Hi.
    apply elem_of_elements in Hi; rewrite Heq in Hi; apply elem_of_list_to_set in Hi.
    by apply elem_of_remove_dups, Hfixed, Hi.
```

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v [hunk 7]
```diff
@@ -133,14 +134,15 @@ Proof.
...
-  - replace s with
-    (fst (composite_transition equivocator_IM l (s0, oim))); [assumption|].
-    by simpl in *; rewrite Ht.
+    + by symmetry; apply elements_empty_iff;
+      specialize (equivocating_indices_equivocating_validators IM is);
+      rewrite equivocating_indices_initially_empty; [ | done];
+      cbn; intros Heq; split; intro; apply Heq.
+  - by replace s with
+    (fst (composite_transition equivocator_IM l (s0, oim))); [assumption|];
+    simpl in *; rewrite Ht.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v:145]:
```suggestion
    + symmetry; apply elements_empty_iff; cbn.
      specialize (equivocating_indices_equivocating_validators IM is).
      by rewrite equivocating_indices_initially_empty.
  - by replace s with (fst (composite_transition equivocator_IM l (s0, oim))); [done |]
    ; cbn in *; rewrite Ht.
```

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v [hunk 8]
```diff
@@ -69,53 +69,50 @@ Qed.
...
   equivocation_fault s1 = equivocation_fault s2.
 Proof.
   intros s1 s2 Heq.
   apply
     (set_eq_nodup_sum_weight_eq
-      (equivocating_validators s1)
-      (equivocating_validators s2)
+      (elements(equivocating_validators s1))
+      (elements(equivocating_validators s2))
     ).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v:112]: No need to provide arguments there.

```coq
  apply set_eq_nodup_sum_weight_eq.
  ```

**Review by wkolowski — APPROVED** [review]
Looks ok overall, but a few things can be improved. Particularly, you should fix the formatting for that one proof with a trailing `Qed` on a separate line.

**Comment by palmskog** [comment]
Fair warning that merging this PR will require upstream changes. @traiansf maybe we want to hold off merging until more about upstream changes have been figured out?

**Comment by wkolowski** [comment]
@palmskog By upstream changes, do you mean fixing casper-cbc-proofs? I think this should certainly be done before merging this PR, so that we know what the consequences of merging this are.
